US04432976
Analogously to Example 3, 2.4 g of 11β,21-dihydroxy-16α,17α-methylenedioxy-1,4-pregnadiene-3,20-dione is reacted with butyric anhydride, worked up, and purified, thus isolating 2.6 g of 21-butyryloxy-11β-hydroxy-16α,17α-methylenedioxy-1,4-pregnadiene-3,20-dione, mp 140°-141° C.

reactant | 11β,21-dihydroxy-16α,17α-methylenedioxy-1,4-pregnadiene-3,20-dione | 2.4 g | O[C@@H]1[C@@H]2[C@]3(C=CC(C=C3CC[C@H]2[C@@H]2C[C@@H]3[C@](C(CO)=O)([C@]2(C1)C)OCO3)=O)C | C22H28O6
reactant | butyric anhydride | C(CCC)(=O)OC(CCC)=O | C8H14O3
product | 21-butyryloxy-11β-hydroxy-16α,17α-methylenedioxy-1,4-pregnadiene-3,20-dione | 2.6 g | C(CCC)(=O)OCC([C@@]12[C@@H](C[C@H]3[C@@H]4CCC5=CC(C=C[C@]5(C)[C@H]4[C@H](C[C@]13C)O)=O)OCO2)=O | C26H34O7
